US04514415
A cold solution of chlorine in chloroform is added dropwise at 0° to 5° C., while stirring, to a mixture of 14.7 g (0.063 mole) of 3-methyl-6-(N-methyl-N-2-butylamino)-benzofuran-2(3H)-one in 100 ml of chloroform until no more educt is visible in the thin layer chromatograph. The reaction mixture is washed with methylene chloride, dilute sodium bicarbonate solution and water. The crude product remaining after drying and concentration by evaporation of the organic phase is chromatographed over silica gel with petroleum ether/ether. Recrystallisation of the pure fractions from ether/petroleum ether yields 5-chloro-3-methyl-6-(N-methyl-N-2-butylamino)-benzofuran-2(3H)-one in the form of a colourless oil, b.p. 0.05, 190° C.

reactant | chlorine | ClCl | Cl2
reactant | 3-methyl-6-(N-methyl-N-2-butylamino)-benzofuran-2(3H)-one | 0.063 mole, 14.7 g | CC1C(OC2=C1C=CC(=C2)N(C(C)CC)C)=O | C14H19NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-3-methyl-6-(N-methyl-N-2-butylamino)-benzofuran-2(3H)-one | ClC=1C(=CC2=C(C(C(O2)=O)C)C1)N(C(C)CC)C | C14H18ClNO2
